US04535087
Preparation of N-3-pyridyl-2,4,6-trichlorophenoxythioacetamide
N-3-pyridyl-2,4,6-trichlorophenoxyacetamide, 33.4 gm, is added to 200 ml of toluene. 22.2 gm of phosphorus pentasulfide (P2S5) is then added to the system. The system is exposed to microwave radiation throughout in order to aid in the dispersion of the phosphorus pentasulfide. The reaction is stirred for 16 hours at ambient temperature. The reaction is then stopped and the solution filtered. The toluene is removed by stripping to give the title compound.

reactant | N-3-pyridyl-2,4,6-trichlorophenoxyacetamide | N1=CC(=CC=C1)NC(COC1=C(C=C(C=C1Cl)Cl)Cl)=O | C13H9Cl3N2O2
reactant | phosphorus pentasulfide | 22.2 gm | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | N-3-pyridyl-2,4,6-trichlorophenoxythioacetamide | N1=CC(=CC=C1)NC(COC1=C(C=C(C=C1Cl)Cl)Cl)=S | C13H9Cl3N2OS
